US04093736
(c) 6-(2-Methoxy-4-chlorophenyl)-5-hexenyl iodide
A mixture of 74 g. of 5-bromopentyl 2-methoxy-4-chlorophenyl carbinol, 50 g. of sodium iodide and 500 ml. of 2-butanone was heated under reflux for 2.5 days. The reaction mixture was concentrated, water added and the mixture extracted with ether. The ether extracts were dried over anhydrous magnesium sulfate and concentrated to give 84 g. of oil used directly in the next reaction without further purification.

reactant | 5-bromopentyl 2-methoxy-4-chlorophenyl carbinol | BrCCCCCC(O)C1=C(C=C(C=C1)Cl)OC | C13H18BrClO2
reactant | sodium iodide | [I-].[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 6-(2-Methoxy-4-chlorophenyl)-5-hexenyl iodide | COC1=C(C=CC(=C1)Cl)C=CCCCCI | C13H16ClIO
